US07705027B2
6-Ethyl-3-(4-fluoro-phenyl)-7-hydroxy-4-oxo-4H-chromene-2-carboxylic acid ethyl ester
4-(5-Ethyl-2,4-dihydroxy-phenyl)-3-(4-fluoro-phenyl)-2,4-dioxo-butyric acid ethyl ester (3.22 g, 8.6 mmol) was refluxed in a mixture of 0.8M HCl and MeOH (20 ml/20 ml) for 3 hours at 100° C. After that, MeOH was evaporated and the aq. layer was extracted with EtOAc (2×60 ml). The combined organic layers were washed with sat. NaHCO3 (1×80 ml), brine (2×80 ml), water (1×80 ml) and dried with Na2SO4. After purification with decolourising charcoal and evaporation of the solvent, brown sticky solids were obtained. They were then extracted with hot ether, dark yellow solids were obtained (0.26 g). Rf=0.43 (EtOAc:n-hexane/1:2). LCMS: (M+1)+=357.3 (RT=7.83). 1H NMR (d6-acetone) δ=9.75 (1H, s); 7.80 (1H, s); 7.25 (2H, m); 7.10 (1H, m); 6.90 (1H, s); 4.05 (2H, q); 2.70 (2H, q); 1.20 (3H, t) and 0.95 (3H, t).

reactant | 4-(5-Ethyl-2,4-dihydroxy-phenyl)-3-(4-fluoro-phenyl)-2,4-dioxo-butyric acid ethyl ester | 8.6 mmol, 3.22 g | C(C)OC(C(C(C(=O)C1=C(C=C(C(=C1)CC)O)O)C1=CC=C(C=C1)F)=O)=O | C20H19FO6
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | n-hexane | CCCCCC | C6H14
solvent | HCl | 0.8M | Cl | ClH
solvent | MeOH | 20 ml | CO | CH4O
product | 6-Ethyl-3-(4-fluoro-phenyl)-7-hydroxy-4-oxo-4H-chromene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=CC(=C(C=C2C(C1C1=CC=C(C=C1)F)=O)CC)O | C20H17FO5
